US05654301
Synthesis of 2-Acetamido-2-vinylacetic acid.
Acetic anhydride (2.50 g, 24.50 mmol) was added slowly into a cooled (-10° C.) solution of vinyl glycine (2.20 g, 21.78 mmol) in AcOH (100 mL). The mixture was stirred at this temperature (30 min) and then at room temperature (3 h). The solution was concentrated repeatedly from H2O. The residue was dissolved in absolute EtOH (200 mL) and then decolorized (norit, 60° C.), and filtered. The filtrate was concentrated in vacuo, and the residue was triturated with Et2O to give 1.70 g (55%) of the desired product as a low melting yellow solid: 1H NMR (DMSO-d6) δ 1.87 (s, C(O)CH3), 4.75 (dd, J=6.2, 7.5 Hz, α-CH), 5.13-5.27 (m, CH=CH2), 5.84-5.96 (m, CH=CH2), 8.24 (d, J=7.5 Hz, NH).

reactant | Acetic anhydride | 24.50 mmol, 2.50 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | vinyl glycine | 21.78 mmol, 2.20 g | C(=C)NCC(=O)O | C4H7NO2
reactant | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 2-Acetamido-2-vinylacetic acid | 1.70 g, 55% | C(C)(=O)NC(C(=O)O)C=C | C6H9NO3
